US07750012B2
4-[4-(4-Iodo-phenoxy)-phenyl]-morpholine:
The title compound (0.36 g, 99%) was prepared from 4-iodopheyl ether (0.42 g, 1 mmol) and morpholine (0.087 g, 1 mmol) in the presence of Pd2(dba)3 (0.027 g, 0.03 mmol), PtBu3 (0.058 g. 0.28 mmol) and NaO-t-Bu (0.095 g, 1 mmol) in toluene by using the procedure described in step 1 of Example 17: MS (ESI) m/z 382 (M+H); 1H NMR (400 MHz, CDCl3) δ 3.12 (t, J=4.8, 4H), 3.87 (t, J=4.8 Hz, 4H), 6.69-6.72 (m, 2H), 6.89-6.92 (m, 4H), 7.55-7.57 (m, 2H).

reactant | 4-iodopheyl ether | 1 mmol, 0.42 g | IC1=CC=C(C=C1)OC1=CC=C(C=C1)I | C12H8I2O
reactant | morpholine | 1 mmol, 0.087 g | N1CCOCC1 | C4H9NO
reactant | PtBu3 | 0.28 mmol, 0.058 g | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
reactant | NaO-t-Bu | 1 mmol, 0.095 g | O([Na])C(C)(C)C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.03 mmol, 0.027 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-[4-(4-Iodo-phenoxy)-phenyl]-morpholine | 0.36 g, 99% | IC1=CC=C(OC2=CC=C(C=C2)N2CCOCC2)C=C1 | C16H16INO2
